US04971959
Methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-n-nonanoate
To a solution of 0.22 g (0.62 mmol) of methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6,8-E,E,E,E-nontetraenoate in 75 mL of methanol is added 0.05 g of 5% palladium on carbon black. The suspension is shaken under a 50 psi atmosphere of hydrogen for 20.9 hours after which time the excess gas is dissociated and the solution is filtered over Celite 545. The mixture is concentrated to dryness followed by liquid chromatography of the crude product over 100 g of silica gel eluting with 5% ethyl acetate in hexane. The final product is dried in vacuo and is found to be analytically pure as an oil.

reactant | methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-2,4,6,8-E,E,E,E-nontetraenoate | 0.62 mmol, 0.22 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=C/C=C/C=C/C(=O)OC | C22H26O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | Methyl 9-(3-cyclopentoxy-4-methoxyphenyl)-n-nonanoate | C1(CCCC1)OC=1C=C(C=CC1OC)CCCCCCCCC(=O)OC | C22H34O4
